US07745641B2
5-Formylindole (5.50 g, 37.9 mmol) was dissolved in acetonitrile (100 mL), and the solution was added with di-tert-butyldicarbonate (9.60 mL, 41.8 mmol) and DMAP (46.0 mg, 0.377 mmol), followed by stirring at room temperature for 2 hours. The reaction mixture was added with piperidine (13.6 mL, 137 mmol) and acetic acid (39.4 mL, 688 mmol), and then sodium triacetoxyborohydride (36.5 g, 172 mmol) was added thereto little by little, followed by stirring at room temperature for 3 hours. The reaction mixture was added with water and sodium carbonate to adjust the pH to 9, followed by extracting with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by flash column chromatography (hexane/ethyl acetate=19/1 to 4/1 to 7/3 to 3/2 to 1/1 to 2/3) to obtain 5-(piperidinomethyl)-1-(tert-butoxycarbonyl)indole (7.91 g, yield 66%).

reactant | 5-Formylindole | 37.9 mmol, 5.50 g | C(=O)C=1C=C2C=CNC2=CC1 | C9H7NO
reactant | di-tert-butyldicarbonate | 41.8 mmol, 9.60 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | piperidine | 137 mmol, 13.6 mL | N1CCCCC1 | C5H11N
reactant | acetic acid | 688 mmol, 39.4 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 172 mmol, 36.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
catalyst | DMAP | 0.377 mmol, 46.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | 5-(piperidinomethyl)-1-(tert-butoxycarbonyl)indole | 7.91 g, yield 66% | N1(CCCCC1)CC=1C=C2C=CN(C2=CC1)C(=O)OC(C)(C)C | C19H26N2O2
